US09227963B2
methyl 6-amino-3-bromopicolinate
To a solution of 6-amino-3-bromopicolinic acid (30 g) in ethyl acetate (300 mL) and methanol (300 mL) was added TMS-diazomethane (70 mL, 2M in hexanes) and the reaction mixture was stirred for 3 days. The mixture was concentrated, taken up in ether (500 mL) and washed with aqueous Na2CO3 solution (twice), then washed with brine, dried over sodium sulfate, filtered and concentrated to provide the title compound.

reactant | 6-amino-3-bromopicolinic acid | 30 g | NC1=CC=C(C(=N1)C(=O)O)Br | C6H5BrN2O2
reactant | TMS-diazomethane | 2M, 70 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 300 mL | CO | CH4O
product | methyl 6-amino-3-bromopicolinate | NC1=CC=C(C(=N1)C(=O)OC)Br | C7H7BrN2O2
